US09085606B2
Preparation of (3S)-3-(3-bromo-5-(tert-butyl)-2-hydroxyphenyl)-3-(2-(3-hydroxy-5-((5-hydroxy-1,4,5,6-tetrahydropyrimidin-2-yl)amino)benzamido)acetamido)propanoic acid
To a suspension of crude (3S)-ethyl 3-(3-bromo-5-(tert-butyl)-2-hydroxyphenyl)-3-(2-(3-hydroxy-5-((5-hydroxy-1,4,5,6-tetrahydropyrimidin-2-yl)amino)benzamido)acetamido)propanoate (1.389 g, 2.19 mmol) in a 1:1 mixture of acetonitrile/water (10.0 mL) was added lithium hydroxide monohydrate (0.735 g, 17.51 mmol) at room temperature and the reaction mixture was stirred at room temperature for 3 h to afford a pale yellow solution. Acetonitrile was evaporated on a rotary evaporator to give a pale yellow aqueous residue. The residue was extracted with dichloromethane (2×25 mL) to remove HOBt and DIPU. The aqueous layer was neutralized with TFA (3.0 mL in 5.0 mL CH3CN) and the mixture was evaporated in vacuo to give a pale viscous residue. The crude product was purified by reverse-phase HPLC on Biotage SP1 system using a gradient 10-40% CH3CN in water containing 0.05% TFA to afford a colorless glassy solid. The purified product was dissolved in water containing a few drops of acetonitrile and lyophilized to afford a colorless powder (778.0 mg). LC/MS analysis of the purified product shows the desired product's mass: m/z 606 (79BrM+H) and m/z 608 (81BrM+H), Calc'd for C26H32BrN5O7: 606.466. 1H NMR (400 MHz, DMSO-d6): δ 1.25 (s, 9H, (CH3)3C—), 2.70 (ABq, JAB=16.00 and 8.73 Hz and JAB=15.95 and 5.45 Hz, 2H, —CH2—COOH), 3.17 (d, J=12.0 Hz, 2H), 3.35 (d, J=11.0 Hz, 2H), 3.89 (d, J=6.0 Hz, 2H), 4.09 (M, 1H), 5.45 (brm, 1H, —NH—CH—CH2—COOH), 6.75 (brt/m, J=2.02 Hz, 1H), 7.13 (dt, 2H), 7.26 (d, J=2.30 Hz, 1H), 7.34 (d, J=2.32 Hz, 1H), 8.60 (d, J=8.26 Hz, 1H), 8.64 (t, J=5.85 Hz, 1H), 9.31 (s, 1H), 9.60 (s, 1H), 10.02 (brs, 1H), 12.27 (brs, 1H, —COOH). 1H NMR spectrum of the sample was consistent with the suggested structure of the product.

reactant | (3S)-ethyl 3-(3-bromo-5-(tert-butyl)-2-hydroxyphenyl)-3-(2-(3-hydroxy-5-((5-hydroxy-1,4,5,6-tetrahydropyrimidin-2-yl)amino)benzamido)acetamido)propanoate | 2.19 mmol, 1.389 g | BrC=1C(=C(C=C(C1)C(C)(C)C)[C@H](CC(=O)OCC)NC(CNC(C1=CC(=CC(=C1)NC=1NCC(CN1)O)O)=O)=O)O | C28H36BrN5O7
reactant | acetonitrile water | 10.0 mL | C(C)#N.O
reactant | lithium hydroxide monohydrate | 17.51 mmol, 0.735 g | O.[OH-].[Li+]
catalyst | water | a few drops | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | (3S)-3-(3-bromo-5-(tert-butyl)-2-hydroxyphenyl)-3-(2-(3-hydroxy-5-((5-hydroxy-1,4,5,6-tetrahydropyrimidin-2-yl)amino)benzamido)acetamido)propanoic acid | 778.0 mg | BrC=1C(=C(C=C(C1)C(C)(C)C)[C@H](CC(=O)O)NC(CNC(C1=CC(=CC(=C1)NC=1NCC(CN1)O)O)=O)=O)O | C26H32BrN5O7
